US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (100 mg, 0.456 mmol), N-cyclopropyl-3-fluoro-4-(piperazin-1-yl)benzamide hydrochloride (137 mg, 0.456 mmol), (cyanomethyl)trimethylphosphonium iodide (166 mg, 0.684 mmol) and N,N-diisopropylethylamine (0.398 ml, 2.281 mmol) were suspended in propiononitrile (Volume: 1.370 ml) and heated in a closed vial at 90-120° C. for 4 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (basic, 45-95% ACN in water, basic). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water-MeOH (2:1, 6 mL) and dried in vacuum to afford (S)—N-cyclopropyl-3-fluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (85.3 mg, 0.184 mmol, 40.3% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.45-0.61 (m, 2H) 0.61-0.76 (m, 2H) 1.83-2.05 (m, 3H) 2.08-2.25 (m, 1H) 2.44-2.49 (m, 4H) 2.80 (td, J=7.33, 3.79 Hz, 1H) 3.08 (br. s., 4H) 3.54-3.66 (m, 1H) 3.91-4.06 (m, 1H) 6.98 (d, J=1.77 Hz, 1H) 7.02 (t, J=8.84 Hz, 1H) 7.49-7.69 (m, 3H) 8.31 (d, J=4.04 Hz, 1H) 10.44 (s, 1H). [M+H] calc'd for C25H29FN6O2, 465; found, 465.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.456 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | N-cyclopropyl-3-fluoro-4-(piperazin-1-yl)benzamide hydrochloride | 0.456 mmol, 137 mg | Cl.C1(CC1)NC(C1=CC(=C(C=C1)N1CCNCC1)F)=O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.684 mmol, 166 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.281 mmol, 0.398 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 1.370 ml | C(CC)#N | C3H5N
product | (S)—N-cyclopropyl-3-fluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.184 mmol, 85.3 mg, 40.3% yield | C1(CC1)NC(C1=CC(=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)F)=O | C25H29FN6O2
